US08614234B2
A 100 ml flask was charged with 4-((2-chloropyridin-4-yl)oxy)aniline (150 mg, 0.68 mmol), 1-tert-butyl 2-methyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrole-1,2-dicarboxylate (260 mg, 0.81 mmol), 2M Na2CO3 solution (0.5 ml, 1.0 mmol), PdCl2(PPh3)2 (5 mg, 0.007 mmol), 10 ml of 1,4-dioxane and 3 ml of water. The mixture was flushed with nitrogen and heated at 70° C. for 30 minutes. The mixture was cooled to room temperature and poured into 100 ml of water. The precipitates were filtered and dried to give the crude, which was further purified by silica gel chromatography eluting with 2-3% MeOH/CHCl3 to give 1-tert-butyl 2-methyl 4-[4-(4-aminophenoxy)pyridin-2-yl]-1H-pyrrole-1,2-dicarboxylate as light brown oil. Yield: 240 mg, 86%.

reactant | 4-((2-chloropyridin-4-yl)oxy)aniline | 0.68 mmol, 150 mg | ClC1=NC=CC(=C1)OC1=CC=C(N)C=C1 | C11H9ClN2O
reactant | 1-tert-butyl 2-methyl 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrole-1,2-dicarboxylate | 0.81 mmol, 260 mg | CC1(OB(OC1(C)C)C=1C=C(N(C1)C(=O)OC(C)(C)C)C(=O)OC)C | C17H26BNO6
reactant | Na2CO3 | 1.0 mmol, 2M, 0.5 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(PPh3)2 | 0.007 mmol, 5 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
solvent | water | 3 ml | O | H2O
product | 1-tert-butyl 2-methyl 4-[4-(4-aminophenoxy)pyridin-2-yl]-1H-pyrrole-1,2-dicarboxylate | NC1=CC=C(OC2=CC(=NC=C2)C=2C=C(N(C2)C(=O)OC(C)(C)C)C(=O)OC)C=C1 | C22H23N3O5
